* NGSPICE file created from resistor180.ext - technology: sky130A

.subckt sky130_fd_pr__res_xhigh_po_2p85_36JPKQ R1 R2 VSUBS
X0 R1 R2 VSUBS sky130_fd_pr__res_xhigh_po_2p85 l=10.15
.ends

.subckt resistor180 VSS B A
XXR30 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR1 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR20 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR31 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR2 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR10 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR21 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR32 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR3 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR11 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR22 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR33 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR5 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR4 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR12 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR23 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR34 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR6 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR14 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR13 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR24 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR25 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR36 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR35 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR7 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR15 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR26 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR37 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR8 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR16 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR27 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR38 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR9 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR17 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR39 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR18 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR29 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
XXR19 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
Xsky130_fd_pr__res_xhigh_po_2p85_36JPKQ_0 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
Xsky130_fd_pr__res_xhigh_po_2p85_36JPKQ_1 A B VSS sky130_fd_pr__res_xhigh_po_2p85_36JPKQ
.ends

