* NGSPICE file created from res259k.ext - technology: sky130A

.subckt sky130_fd_pr__res_xhigh_po_2p85_789E74 B R1 R2
X0 R1 R2 B sky130_fd_pr__res_xhigh_po_2p85 l=10.65
.ends

.subckt res259k VSS A B
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_0 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_0/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_14 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_1 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_1/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_16 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_15 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_3 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_3/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_2 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_2/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_17 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_4 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_4/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_18 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_5 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_5/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_19 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_6 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_6/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR30 VSS XR30/R1 XR31/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_7 VSS sky130_fd_pr__res_xhigh_po_2p85_789E74_7/R1
+ VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR1 VSS A XR2/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR20 VSS XR20/R1 XR21/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR31 VSS XR32/R2 XR31/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_8 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR10 VSS XR15/R1 XR9/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR2 VSS XR2/R1 XR3/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR32 VSS XR33/R2 XR32/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR21 VSS XR22/R2 XR21/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_9 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR33 VSS XR34/R2 XR33/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR3 VSS XR3/R1 XR4/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR22 VSS XR23/R2 XR22/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR11 VSS XR12/R2 XR16/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR34 VSS XR35/R2 XR34/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR23 VSS XR24/R2 XR23/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR12 VSS XR13/R2 XR12/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR4 VSS XR4/R1 XR5/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR5 VSS XR5/R1 XR6/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR35 VSS B XR35/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR25 VSS XR26/R1 XR25/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR24 VSS XR25/R2 XR24/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR14 VSS XR15/R2 XR14/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR13 VSS XR14/R2 XR13/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR6 VSS XR7/R2 XR6/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR26 VSS XR26/R1 XR27/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR15 VSS XR15/R1 XR15/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR7 VSS XR8/R2 XR7/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR27 VSS XR27/R1 XR28/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR8 VSS XR9/R2 XR8/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR16 VSS XR17/R2 XR16/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR9 VSS XR9/R1 XR9/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR28 VSS XR28/R1 XR29/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR17 VSS XR18/R2 XR17/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR18 VSS XR19/R1 XR18/R2 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR29 VSS XR29/R1 XR30/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
XXR19 VSS XR19/R1 XR20/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_20 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_10 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_11 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_12 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
Xsky130_fd_pr__res_xhigh_po_2p85_789E74_13 VSS VSS VSS sky130_fd_pr__res_xhigh_po_2p85_789E74
R0 sky130_fd_pr__res_xhigh_po_2p85_789E74_0/R1 sky130_fd_pr__res_xhigh_po_2p85_789E74_1/R1 sky130_fd_pr__res_generic_m3 w=2.17 l=4.86
.ends

