** sch_path: /foss/designs/kerjapraktik/test/komparator_5/komparator.sch
.subckt komparator VDD VSS OUT IN REF B1 B2
*.PININFO VDD:B VSS:B OUT:O IN:I REF:I B1:I B2:I
XM12 net1 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.75 W=7.5 nf=2 m=1
XM1 net2 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.75 W=7.5 nf=2 m=1
XM3 net1 net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.75 W=7.5 nf=2 m=1
XM5 net2 net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.75 W=7.5 nf=2 m=1
XM6 OUT net2 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.75 W=7.5 nf=2 m=1
XM2 net1 REF net3 VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4.16 nf=1 m=1
XM7 net2 IN net3 VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4.16 nf=1 m=1
XM8 net3 B1 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.75 W=6 nf=2 m=1
XM9 net4 B2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.75 W=6 nf=2 m=1
XM10 OUT B2 VSS VSS sky130_fd_pr__nfet_g5v0d10v5 L=0.75 W=6 nf=2 m=1
XM4 net4 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.75 W=7.5 nf=2 m=1
.ends
